US05086180
5-(2-quinolinylmethoxy)-3-(1,1,1-trifluoromethylsulphamoyl)-2-thiophenecarboxylic acid
38.0 g (0.085 mol) of methyl 5-(2-quinolinylmethoxy)-3-(1,1,1-trifluoromethylsulphamoyl)-2-thiophenecarboxylate are dissolved in 350 ml of methanol and about 100 ml of 2N sodium hydroxide solution are added. The reaction mixture is heated under reflux and with stirring for 7 hours. The reaction solution is concentrated to 20% of its volume and diluted with 500 ml of water. The aqueous phase is extracted four times with a total of 500 ml of ether. The aqueous phase is cooled to 0° C. with stirring and acidified with 0.5N hydrochloric acid. The product precipitated in this way is filtered off with suction, digested twice with 50 ml of ice-cold ether each time and dried at 60° C./1 mbar.

reactant | methyl 5-(2-quinolinylmethoxy)-3-(1,1,1-trifluoromethylsulphamoyl)-2-thiophenecarboxylate | 0.085 mol, 38.0 g | N1=C(C=CC2=CC=CC=C12)COC1=CC(=C(S1)C(=O)OC)S(NC(F)(F)F)(=O)=O | C17H13F3N2O5S2
reactant | sodium hydroxide | 2N, about 100 ml | [OH-].[Na+]
solvent | methanol | 350 ml | CO | CH4O
product | 5-(2-quinolinylmethoxy)-3-(1,1,1-trifluoromethylsulphamoyl)-2-thiophenecarboxylic acid | N1=C(C=CC2=CC=CC=C12)COC1=CC(=C(S1)C(=O)O)S(NC(F)(F)F)(=O)=O | C16H11F3N2O5S2
